* Quad CD4066 Analog Switch
.subckt CD4066-quad aio aoi bio boi bctrl cctrl vss cio coi dio doi dctrl actrl vdd
.include CD4066.LIB
* Control In Out Vdd Vss
XU1A actrl aio aoi vdd vss CD4066
XU1B bctrl bio boi vdd vss CD4066
XU1C cctrl cio coi vdd vss CD4066
XU1D dctrl dio doi vdd vss CD4066
.ends
