* Dual ideal LMC6482 opamp ngspice model
.subckt LMC6482 1out 1in- 1in+ vee 2in+ 2in- 2out vcc
.include ideal_opamp.lib
* in+ in- out v+ v-
XU1A 1in+ 1in- 1out vcc vee opamp
XU1B 2in+ 2in- 2out vcc vee opamp
.ends
