* Dual LMC6482 opamp ngspice model
.subckt LMC6482 1out 1in- 1in+ vee 2in+ 2in- 2out vcc
.include LMC648x.LIB
XU1A 1in+ 1in- vcc vee 1out LMC648x
XU1B 2in+ 2in- vcc vee 2out LMC648x
.ends
